US03962438
10-Trifluoromethyl-1H-pyrimido[5,4,3-kl] phenothiazine-1,3(2H)-dione-7,7-dioxide
A mixture of 3.36 g. (0.01 mol.) of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione and three equivalents of 30% hydrogen perioxide in 70 ml. of glacial acetic acid was heated at 75°-85° for 4 hours. The reaction mixture was cooled and diluted with water. The precipitated product was collected by filtration and washed with water to give the title compound, m.p. 290 -293° (methanol).

reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | 0.01 mol | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
reactant | hydrogen | three equivalents | [H][H] | H2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
product | 10-Trifluoromethyl-1H-pyrimido[5,4,3-kl] phenothiazine-1,3(2H)-dione-7,7-dioxide | FC(C1=CC=2N3C4=C(C=CC=C4S(C2C=C1)(=O)=O)C(NC3=O)=O)(F)F | C15H7F3N2O4S
